US08492559B2
Stage 4: tert-Butyloxycarbonyl-4-(dimethylamino)-4-phenylpiperidine
12.2 g KOH were added to a solution of 12 g (1 eq.) benzyloxycarbonyl-4-(dimethylamino)-4-phenylpiperidine in 120 ml ethanol and the reaction mixture was refluxed for 48 h. The reaction course was monitored by thin-layer chromatography (20% MeOH/CHCl3). Once the conversion was complete, the solvent was distilled off completely, the residue suspended in ethyl acetate, filtered, and the organic phase dried over sodium sulfate. Following removal of the solvent under reduced pressure, the crude product was dissolved in dioxane, mixed with saturated sodium hydrogen carbonate solution and 11.9 g (1.5 eq.) of Boc anhydride and stirred for 30 min at room temperature. Once the conversion was complete, the reaction mixture was extracted with 3×200 ml ethyl acetate and the combined organic phases were dried over Na2SO4. Following removal of the solvent under reduced pressure, 8.5 g (77%) of crude product were obtained in the form of a colorless solid.

reactant | KOH | 12.2 g | [OH-].[K+]
reactant | benzyloxycarbonyl-4-(dimethylamino)-4-phenylpiperidine | 12 g, 1 eq. | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)(C1=CC=CC=C1)N(C)C | C21H26N2O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | Boc anhydride | 11.9 g, 1.5 eq. | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethanol | 120 ml | C(C)O | C2H6O
solvent | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
product | tert-Butyloxycarbonyl-4-(dimethylamino)-4-phenylpiperidine | 8.5 g, 77% | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=CC=CC=C1)N(C)C | C18H28N2O2
